US07399812B2
Preparation of 2,2-di-n-butyl-1-methoxy-3-[(triethylsilyl)oxy]propane
According to the procedure as described in Example 1,2,2-di-n-butyl-1-methoxy-3-[(triethylsilyl)oxy]propane was prepared from intermediate 2,2-di-n-butyl-3-methoxy-1-propanol and reagent triethylsilyl chloride.

reactant | 2,2-di-n-butyl-3-methoxy-1-propanol | C(CCC)C(CO)(COC)CCCC | C12H26O2
reactant | triethylsilyl chloride | C(C)[Si](CC)(CC)Cl | C6H15ClSi
product | 2,2-di-n-butyl-1-methoxy-3-[(triethylsilyl)oxy]propane | C(CCC)C(COC)(CO[Si](CC)(CC)CC)CCCC | C18H40O2Si
